Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Keflex
 
Attending: ___.
 
Chief Complaint:
Generalized tonic clonic seizure
 
Major Surgical or Invasive Procedure:
Intubation at ___
Extubation at ___
 
History of Present Illness:
HPI:
Mr. ___ is a ___ who presents as a tranfer from ___ with several seizures followed by intubated in the
setting of recent nausea/vomiting and persistent headache on a
background of epilepsy.

Information is obtained from the transfer records and from his
family. The patient is intubated on arrival and cannot
participate in history gathering process.

He was last seen in our department in ___ at which time he was
transfered to our hospital intubated for concerns regarding
status epilepticus (repeat GTCs, perhaps 3, with prolonged
post-ictal period). He was sent to the ICU and was monitored 
with
EEG and MRI brain which were unrevealing. He was extubated and
shortly thereafter discharged without AED. It was assumed at 
that
time that his seizures were triggered by overusing tramadol for
back pain. He did not follow up with his neurology appointment 
at
___ and we have no records of his subsequent history. 

His wife informs me that since discharge he has been followed by
a neurologist ___ and has unfortunately had perhaps 3
seizure cluster episodes and everytime has been transferred to
___ and (as far as she can remember) has been intubated
every time. The trigger for these clusters has not always been 
so
clear, however on one occasion he had a skin infection on his 
arm
(cellulitis). 

He has been tried on several AED including Depakote (she cannot
remember the others), but has had varied side effects such as
calf pain and eventually settled on topamax roughly ___ year ago.
The dose is listed as 25mg BID, which his wife was told was a
very small dose but he has not had any seizures in about ___ year
and she feels that the dose has been adequate. She monitors his
medications and makes sure that he takes the topamax twice every
day. He has not missed any doses. 

Last week, he had perhaps 2 days of nausea/vomiting with 
diarrhea
that was "going around". 5 other people in his house had the 
same
symptoms and recovered well. The patient himself did not have a
fever during the episode (but perhaps some chills) and recovered
well over the next few days and was able to eat, drink and take
his medication. He did, however continue to have a headache that
was bifrontal. He may have taken an extra percocet for the pain.
His wife denies any report of neck stiffness, altered behavior,  


Over the past 2 nights, his wife noted that he had two episodes,
one each night, of loud grunting that she thinks may have
represented a small seizure. She checked on him (they sleep in
separate beds) but he was able to respond thereafter. 

At roughly 5am this morning, he again had another episode of
grunting. She went to check in on his and he looked okay  
however
perhasp 10minutes later he had a "full blown seizure" with whole
body shaking which lasted 5 minutes. He had a second episode 5
minutes later and his wife called EMS. He had another episode as
they arrived and a fourth in the ambulance on the way. Between
episodes he was not interactive. His ___ at the scene was
173mg/dl. 

On arrival to ___, he was given 2 mg ativan and quickly
intubated and placed on propofol. His BP decreased into ___
systolic, he was given fluids.  Labs at ___ showed
leukocytosis and lactic acid 15, bicarb 5. He underwent NCHCT
which did not show abnormality. he was tranferred to ___.

On arrival, sedation was switched to fentanyl/Midaz and neuro 
was
consulted. EEG was ordered. He was then given 1g phenytoin and
transferred to the neuro ICU. 
 
Past Medical History:
Past Medical History:

Epilepsy: he was admitted to our hospital in ___ after several
new onset seizure episodes that were followed by intubated and
ICU monitoring. He underwent MRI and EEG which were unrevealing.
He was discharged but did not follow up with ___ neurology. He
was not discharged on any AEDs at that time. Based on his
admission medication list, he is taking lyrica and topamax but 
at
small doses for pain.  

Chronic Back pain- Patient has been mostly followed by a
___ physician for this problem.  ___ years ago 
he fell while at work on the ___ and fell down 14 feet 
injuring
his back.  His family wasn't sure the total of extent of his
injury but think he had L4/L5 vertebral disc protrusion and
stenosis of the canal.  His images are at ___. 
He has a history of taking many pain medications and taking them
NOT as precribed. For pain, he is currently on lyrica 50mg QID,
topamax 25 bID, flexeril 10mg, ibuprofen and percocet QID 

Heel Fracture- sustained during above mentioned fall

?Syncope-  He has two known syncopal events apart from the
seizures described above. One was ___ years ago where he 
reported
feeling lightheaded and fell forward and hit his head suffereing
a laceration of his forehead.  The second was ___ year ago where 
he
fainted while in the bathroom. 

 
Hemorrhoids-  He has been followed by a surgeon who has
recommended surgical intervention in the past. 
 
Social History:
___
Family History:
Family History:
FH: He was one of 6 brother and several of them have prostate
cancer.  Both of his parents lived to their ___.  His 
mother had a stroke in her ___.  There is no family history of
seizure.
 
Physical Exam:
Admission Physical exam:
99.3 68 99/64 18 100%  
GEN: intubated sedated on fentanyl.midaz
HEENT: supple, good range of motion
CV: RRR s1s2
Lungs: CTA in frontal fields
Abd: soft, nd +ns
Ext: warm, wp, 2+ pulses, no edema 
GU foley in place
skin: no significant lesions

Neurological exam:
MS: intubated sedated
CN: +doll's eyes, + ptosis on the right (previously reported in
___, face symmetric during grimace, + gag, 
Motor: no clear asymmetries, tone is normal to slightly flaccid
in all extremities without asymmetry, no adventitious movements 
Reflexes: 1+ and symmetric in the uppers, 1+ symmetric in the
lowers, absent ankle jerks,   
Sensory: did not withdraw to painful stimuli in any limb
coordination/gait: untested 

DISCHARGE EXAM:
General: WDWN
HEENT: Right eyelid without swelling or erythema
CV: RRR, no murmurs
Abd: S/NT/ND
Extremities: WWP

MS: A&Ox3, ___ backwards without difficulty, speech fluent, 
follows commands
CN: PERRL, EOMI, face symmetric, tongue midline, no dysarthria
Motor: Normal bulk and tone, intact strength throughout
Reflexes: 2+ throughout
Sensation: Intact to light touch
Gait: Intact
 
Pertinent Results:
Labs:
133  ___   AGap=13 
4.1  15  0.9  
Ca: 8.0 Mg: 2.1 P: 2.7
ALT: 31 AP: 65 Tbili: 0.3 Alb: 3.5 
AST: 33 LDH:  Dbili:  TProt:  
___:  Lip: 37   
Serum ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc Negative
 
WBC 18.8 ___  
Hgl 12.7
Plt  340
HCT 37.5  

Blood culture ___ from ___): alphan hemolytic strep ___ 
bottles)

Blood cultures (___): no growth

Urine culture (___): no growth

MRI brain: Unremarkable brain MRI without evidence of 
hemorrhage, infarct or abnormal enhancement. 

MRI C-spine: No evidence of cord compression. Cervical 
spondylosis as described above, worst at C5-C6, where there is 
moderate canal narrowing. 

CT sinus: Right preseptal cellulitis without post-septal 
extension.
 
Brief Hospital Course:
ICU COURSE: ___ year old man diagnosed with epilepsy in ___ 
(here) of unknown etiology. An extensive work-up was negative 
and the only trigger found was tramadol use. He had presented 
with status and was intubated. Since discharge, he has had 3 
other episodes of GTC status epilepticus for which he has been 
intubated at ___. Numerous AEDs have been tried 
and reactions of variable severity and legitimacy resulted in 
the patient being maintained on topiramate 25 BID. His last 
seizure was in the setting of cellulitis treated with Keflex ___ 
year ago. His only semiology is GTC. 

He had a gastroenteritis which resolved a week ago with a 
subsequent severe, question bifrontal headache since. He has not 
been obviously febrile, but his wife does describe rigors. He 
has only taken Percocet for analgesia and has not head any head 
trauma. Over the past 2 mornings prior to admission, he had had 
periods of grunting in the early morning. On the morning of 
admission, his early morning grunting was followed by a GTC 
within 10 minutes. He subsequently had 3 (one prior to EMS 
arrival, one on EMS arrival, one at ___ with no return 
to baseline between them. He was given 2mg Ativan, intubated, 
and sent here after nl NCHCT and CXR. 

Here, serum and urine tox screens were negative. He was given 
1gm PHT and started on 100 fosPHT TID. He was diagnosed with 
right pre-septal orbital cellulitis, started on clindamycin with 
vancomycin added when found that GPCs were growing in pairs and 
chains from an OSH blood culture. He was extubated overnight and 
has done well.

FLOOR Course:
Patient was admitted in stable condition. He was continued on 
Phenytoin 100mg TID without further seizures. He was continued 
on Vancomycin for preseptal cellulitis and positive blood 
culture, and Clindamycin was discontinued. ID was consulted 
given OSH blood culture grew strep viridans in one of 4 tubes. 
They recommended TTE to rule out any vegetations or endocarditis 
which was normal. He was discharged on Vancomycin 1000mg IV q12h 
to complete a 7 day course since first negative blood culture 
(___). PICC line was placed in right arm and 
placement confirmed prior to discharge. ___ services arranged to 
administer Vancomycin at home. Patient switched to Phenytoin ER 
300mg po daily for convenience on discharge. Patient to see 
Neurologist in one week at which time Phenytoin level will be 
checked. Level from ___ was 9.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H 
2. Multivitamins 1 TAB PO DAILY 
3. Garlipure (garlic extract) 600 mg oral QD 
4. Topiramate (Topamax) 25 mg PO BID 
5. Lidocaine 5% Patch 1 PTCH TD QAM 
6. Ibuprofen 400 mg PO Q8H:PRN pain 
7. Pregabalin 50 mg PO QID 
8. Cyclobenzaprine 5 mg PO TID:PRN pain 
9. Magnesium Oxide 400 mg PO DAILY 
10. Zinc Sulfate 220 mg PO DAILY 

 
Discharge Medications:
1. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H 
2. Cyclobenzaprine 5 mg PO TID:PRN pain 
3. Garlipure (garlic extract) 600 mg oral QD 
4. Ibuprofen 400 mg PO Q8H:PRN pain 
5. Lidocaine 5% Patch 1 PTCH TD QAM 
6. Magnesium Oxide 400 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Pregabalin 50 mg PO QID 
9. Zinc Sulfate 220 mg PO DAILY 
10. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral QD 
RX *calcium carbonate-vitamin D3 [Calcium 600 + D(3)] 600 mg 
calcium (1,500 mg)-400 unit 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5
11. Vancomycin 1000 mg IV Q 12H 
To continue Vancomycin 1000mg IV q12h until ___, last dose 
in the evening.  
RX *vancomycin 1 gram 1 g IV every twelve (12) hours Disp #*4 
Vial Refills:*0
12. Phenytoin Sodium Extended 300 mg PO DAILY 
RX *phenytoin sodium extended 300 mg 1 capsule(s) by mouth daily 
Disp #*30 Capsule Refills:*5

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Seizure
Pre-septal cellulitis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were transferred to our ___ from ___ after you 
had three seizures.  Your seizure medications were changed from 
Topamax to Phenytoin extended release 300mg PO daily. We hope 
that your seizures will be better controlled on this medication. 
 We also started you on calcium and vitamin D that you should 
take while you are taking phenytoin. You were treated with 
Vancomycin for cellulitis of your right eyelid and a positive 
blood culture. You were sent home on Vancomycin to complete a 7 
day course, which will be completed on ___. You will have 
your PICC line removed by ___ services on ___ after your 
last Vancomycin dose.

Please contact your doctor or go to the nearest Emergency Room 
if you experience any of the below listed Danger Signs.

It was a pleasure caring for you on this hospitalization.
 
Followup Instructions:
___